US05919799
Synthesis of 5,6,7,8-tetrahydro-2-(3,4,5-trimethoxyphenyl)-3-(3-pyridylcarbonylaminoiminomethyl)imidazo[2,1-b]benzothiazole (Compound 4)
Next, 0.37 g of 5,6,7,8-tetrahydro-2-(3,4,5-trimethoxyphenyl)-3-formylimidazo[2,1-b]benzothiazole, 0.15 g of nicotinohydrazide, and 0.1 g of potassium hydroxide were heated and stirred in 20 ml of methanol at 90° C. for 1.5 hours. After cooling, the solvent was distilled off under reduced pressure and the residue was extracted with chloroform. The extract was washed with water and dried, then the solvent was distilled off and the residue was crystallized from methanol to obtain the desired substance in an amount of 0.40 g (yield of 81.6%).

reactant | 5,6,7,8-tetrahydro-2-(3,4,5-trimethoxyphenyl)-3-formylimidazo[2,1-b]benzothiazole | 0.37 g | COC=1C=C(C=C(C1OC)OC)C=1N=C2SC3=C(N2C1C=O)CCCC3 | C19H20N2O4S
reactant | nicotinohydrazide | 0.15 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 5,6,7,8-tetrahydro-2-(3,4,5-trimethoxyphenyl)-3-(3-pyridylcarbonylaminoiminomethyl)imidazo[2,1-b]benzothiazole | COC=1C=C(C=C(C1OC)OC)C=1N=C2SC3=C(N2C1C=NNC(=O)C=1C=NC=CC1)CCCC3 | C25H25N5O4S
